US07687502B2
(4-Methyl-1,3-thiazol-2-yl)-6-(4-methyl-1,2,4-triazol-3-ylsulfanyl)-quinazolin-4-yl-amine
The compound of Example 67 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 3-mercapto-4-methyl-[1,2,4]triazole, 2-amino-4-methyl-1,3-thiazole and 4-chloro-6-iodoquinazoline.

reactant | 3-mercapto-4-methyl-[1,2,4]triazole | SC1=NN=CN1C | C3H5N3S
reactant | 2-amino-4-methyl-1,3-thiazole | NC=1SC=C(N1)C | C4H6N2S
reactant | 4-chloro-6-iodoquinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
product | (4-Methyl-1,3-thiazol-2-yl)-6-(4-methyl-1,2,4-triazol-3-ylsulfanyl)-quinazolin-4-yl-amine | CC=1N=C(SC1)NC1=NC=NC2=CC=C(C=C12)SC1=NN=CN1C | C15H13N7S2
